US08937071B2
To a mixture of 1-(2-(benzyloxy)ethoxy)-4-nitro-2-(trifluoromethyl)benzene (8.1 g, 23.73 mmol) in MeOH (100 mL) was added zinc (15.52 g, 237 mmol) and NH4Cl (12.70 g, 237 mmol). The mixture was stirred at 20° C. for 3 h. LCMS showed the reaction was finished. The mixture was filtered, and the filtrate was concentrated to give crude product, which was purified by silica gel column (PE/EA=5:1, Rf=0.4) to obtain 4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)aniline (5.1 g, 14.40 mmol, 60.7% yield). 1H NMR (400 MHz, CDCl3) 7.35-7.24 (m, 5H), 6.81 (t, J=8.4 Hz, 2H), 6.78 (d, J=2.8 Hz, 1H), 4.63 (s, 2H), 4.13 (t, J=4.8 Hz, 2H), 3.83 (t, J=3.6 Hz, 2H); ES-LCMS m/z 312(M+H).

reactant | 1-(2-(benzyloxy)ethoxy)-4-nitro-2-(trifluoromethyl)benzene | 23.73 mmol, 8.1 g | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C16H14F3NO4
reactant | NH4Cl | 237 mmol, 12.70 g | [NH4+].[Cl-]
solvent | MeOH | 100 mL | CO | CH4O
catalyst | zinc | 237 mmol, 15.52 g | [Zn] | Zn
product | 4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)aniline | 14.40 mmol, 5.1 g, 60.7% yield | C(C1=CC=CC=C1)OCCOC1=C(C=C(N)C=C1)C(F)(F)F | C16H16F3NO2
